US05235063
3-(4-benzyloxyphenyl)aminopropane-1,2 -diol (R) (code number 200418)
The product is obtained with a 90% yield; m.p.: 102° C.; [α]D20 =+12,7° (c=1, CH3OH). This same product can be obtained by heating 4-benzyloxyaniline in ethanol in the presence of (R)-glycidol.

reactant | CH3OH | CO | CH4O
reactant | 4-benzyloxyaniline | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | (R)-glycidol | C1[C@H](O1)CO | C3H6O2
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-benzyloxyphenyl)aminopropane-1,2 -diol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NCC(CO)O | C16H19NO3
